US08232285B2
(R)-Benzyl 3-(1-(7-chloro-4-oxo-3-(phenylamino)-3,4-dihydroquinazolin-2-yl)but-3-ynylamino)propylcarbamate (0.28 g, 0.53 mmol) was dissolved in dichloromethane (5 mL). Triethylamine (0.22 mL, 1.60 mmol) was added followed by the addition of 2-fluoro-3-chlorobenzoyl chloride (0.112 g, 0.58 mmol). The reaction was stirred under a nitrogen atmosphere until the reaction was complete (LC/MS) (total of 5 min). The mixture was stirred for an additional 10 min, diluted with dichloromethane (50 mL) and washed with aqueous sodium bicarbonate (5 mL), water (5 ml×2) and brine solution and dried over anhydrous sodium sulfate. The solid was removed by filtration and the solvent removed under vacuum to provide (R)-benzyl 3-(3-chloro-N-(1-(7-chloro-4-oxo-3-(phenylamino)-3,4-dihydroquinazolin-2-yl)but-3-ynyl)-2-fluorobenzamido)propyl-carbamate as an orange solid (0.31 g, 0.45 mmol, 84%). mp 103-105° C. 1H-NMR (DMSO-d6): δ 9.41-8.94 (m, 1H), 8.21-5.62 (m, 16H), 5.35-4.80 (m, 2H), 3.46-1.15 (m, 11H). LC/MS: 686 [M+H].

reactant | (R)-Benzyl 3-(1-(7-chloro-4-oxo-3-(phenylamino)-3,4-dihydroquinazolin-2-yl)but-3-ynylamino)propylcarbamate | 0.53 mmol, 0.28 g | ClC1=CC=C2C(N(C(=NC2=C1)[C@@H](CC#C)NCCCNC(OCC1=CC=CC=C1)=O)NC1=CC=CC=C1)=O | C29H28ClN5O3
reactant | Triethylamine | 1.60 mmol, 0.22 mL | C(C)N(CC)CC | C6H15N
reactant | 2-fluoro-3-chlorobenzoyl chloride | 0.58 mmol, 0.112 g | FC1=C(C(=O)Cl)C=CC=C1Cl | C7H3Cl2FO
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | (R)-benzyl 3-(3-chloro-N-(1-(7-chloro-4-oxo-3-(phenylamino)-3,4-dihydroquinazolin-2-yl)but-3-ynyl)-2-fluorobenzamido)propyl-carbamate | 0.45 mmol, 0.31 g, 84% | ClC=1C(=C(C(=O)N([C@H](CC#C)C2=NC3=CC(=CC=C3C(N2NC2=CC=CC=C2)=O)Cl)CCCNC(OCC2=CC=CC=C2)=O)C=CC1)F | C36H30Cl2FN5O4
